US04631287
2-(p-Nitrophenoxymethyl) quinoline
This compound was prepared in an identical manner as described in Example 1, except p-nitrophenol was substituted for phenol, m.p. 142°-143° C.

reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2-(p-Nitrophenoxymethyl) quinoline | [N+](=O)([O-])C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H12N2O3
